US04652297
N-trifluoroacetyl-N-[bis(cyclohexylamino)phosphinothioylmethyl]glycine, ethyl ester (4 g, 8.49 mm), was dissolved in ethanol (40 ml). The solution was stirred and sodium tetrahydrido boron (322 mg, 8.49 mm) was added portionwise over a ten minute period. The solution was stirred for an additional 30 minutes. The solvent was removed by evaporation under vacuum and the residue was washed with water. The water washings were saturated with sodium chloride and the aqueous layer and insoluble residue were simultaneously extracted with ethyl acetate three times. The combined ethyl acetate extracts were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was then chromatographed on silica gel with ether to yield N-[bis(cyclohexylamino)phosphinothioylmethyl]glycine, ethyl ester (1.3 g), m.p. 74°-90° C.

reactant | N-trifluoroacetyl-N-[bis(cyclohexylamino)phosphinothioylmethyl]glycine, ethyl ester | 4 g | FC(C(=O)N(CC(=O)OCC)CP(=S)(NC1CCCCC1)NC1CCCCC1)(F)F | C19H33F3N3O3PS
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | N-[bis(cyclohexylamino)phosphinothioylmethyl]glycine, ethyl ester | 1.3 g | C1(CCCCC1)NP(=S)(NC1CCCCC1)CNCC(=O)OCC | C17H34N3O2PS
